US08685975B2
To a solution of methyl 2-(4-aminophenyl)-2-methoxyacetate (0.6 g, 3.07 mmol) in anhydrous pyridine (6 mL) under argon was added 3-chloropropane-1-sulfonyl chloride (0.5 mL, 4.11 mmol) dropwise. The exothermic reaction was cooled briefly over a cold H2O bath. After stirring for 1 hr, the reaction was diluted with H2O, 1 M HCl and brine and extracted with EtOAc. The combined organics were washed with 1 M HCl, H2O and brine then dried over Na2SO4 and concentrated in vacuo to give methyl 2-(4-(3-chloropropylsulfonamido)phenyl)-2-methoxyacetate as an orange oil (1.03 g, quant. yield). The product was used without further purification.

reactant | methyl 2-(4-aminophenyl)-2-methoxyacetate | 3.07 mmol, 0.6 g | NC1=CC=C(C=C1)C(C(=O)OC)OC | C10H13NO3
reactant | 3-chloropropane-1-sulfonyl chloride | 4.11 mmol, 0.5 mL | ClCCCS(=O)(=O)Cl | C3H6Cl2O2S
solvent | pyridine | 6 mL | N1=CC=CC=C1 | C5H5N
solvent | H2O | O | H2O
solvent | HCl | 1 M | Cl | ClH
solvent | brine | [Cl-].[Na+].O
product | methyl 2-(4-(3-chloropropylsulfonamido)phenyl)-2-methoxyacetate | 1.03 g, quant. yield | ClCCCS(=O)(=O)NC1=CC=C(C=C1)C(C(=O)OC)OC | C13H18ClNO5S
